US05158953
To a nitric acid (40 mL) in ice bath was added 3,4-dimethoxybenzonitrile (5.0 g, 30.6 mmol) and was allowed to stir for 2 hours. Then the solution was gradually returned to room temperature. To this solution was added ice (200 mL) to get light yellow precipitate which was then collected by filtration to give 6.25 g (98%) of 2-nitro-4,5-dimethoxybenzonitrile. 1H NMR (100 MHz, DMSO-d6): δ3.69 (s, 3H, CH3), 3.90 (s, 3H, CH3), 7.53 (s, 1H, Ar--H), 7.75 (s, 1H, Ar--H). ms: m/z 208 (M+), 192 (M+ -16), 178 (M+ -30), 162 (M+ -46).

reactant | nitric acid | 40 mL | [N+](=O)(O)[O-] | HNO3
reactant | 3,4-dimethoxybenzonitrile | 30.6 mmol, 5.0 g | COC=1C=C(C#N)C=CC1OC | C9H9NO2
product | 2-nitro-4,5-dimethoxybenzonitrile | 6.25 g, 98% | [N+](=O)([O-])C1=C(C#N)C=C(C(=C1)OC)OC | C9H8N2O4
